US07465726B2
tert-Butyl 4-{4-[4-methoxy-3-(1H-pyrrol-2-yl)-phenylamino]-7H-pyrrolo[2,3-d]pyrimidin-6-yl}-3,6-dihydro-2H-pyridine-1-carboxylate
To a stirred solution of tert-butyl 4-[4-(3-iodo-4-methoxyphenylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylate (82.1 mg, 0.15 mmol), N-Boc-2-pyrrolylboronic acid (47.5 mg, 0.225 mmol) and potassium carbonate (41.5 mg, 0.3 mmol) in dioxane/water (4:1) (11.0 mL) was added PdCl2(dppf).CH2Cl2 (12.2 mg, 0.015 mmol). The mixture was heated at reflux for 18 h. Solvents were removed and the residue was dissolved in DMF (≈2 mL). The DMF solution was filtered and sent to mass-directed HPLC purification. The pyrrole-Boc-protected product obtained was stirred with NaOH (s, 369 mg) in 9 mL of methanol at rt for 17 h. The solvent was removed and the residue was dissolved in DMF (1.5 mL) and purified by HPLC purification to give the title compound. 1H-NMR (DMSO-d6, 400 MHz): δ=1.43 (s, 9H), 2.46 (m, 2H), 3.56 (m, 2H), 3.87 (s, 3H), 4.03 (m, 2H), 6.11 (q, J=2.4 Hz, 1H), 6.37 (s, br, 1H), 6.49 (s, 1H), 6.71 (s, 1H), 6.81 (q, J=2.4 Hz, 1H), 7.04 (d, J=9.2 Hz, 1H), 7.63 (d, J=6.0 Hz, 1H), 7.92 (d, J=2.4 Hz, 1H), 8.20 (d, J=4.4 Hz, 1H), 9.22 (s, 1H), 10.91 (s, 1H), 11.89 (s, 1H). MS (ES+): m/z 487.04 [MH+]. HPLC: tR=2.96 min (ZQ2000, polar—5 min).

reactant | tert-butyl 4-[4-(3-iodo-4-methoxyphenylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylate | 0.15 mmol, 82.1 mg | IC=1C=C(C=CC1OC)NC=1C2=C(N=CN1)NC(=C2)C=2CCN(CC2)C(=O)OC(C)(C)C | C23H26IN5O3
reactant | N-Boc-2-pyrrolylboronic acid | 0.225 mmol, 47.5 mg | C(=O)(OC(C)(C)C)N1C(=CC=C1)B(O)O | C9H14BNO4
reactant | potassium carbonate | 0.3 mmol, 41.5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | CH2Cl2 | 0.015 mmol, 12.2 mg | C(Cl)Cl | CH2Cl2
reactant | NaOH | 369 mg | [OH-].[Na+]
solvent | dioxane water | 11.0 mL | O1CCOCC1.O
solvent | methanol | 9 mL | CO | CH4O
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-Butyl 4-{4-[4-methoxy-3-(1H-pyrrol-2-yl)-phenylamino]-7H-pyrrolo[2,3-d]pyrimidin-6-yl}-3,6-dihydro-2H-pyridine-1-carboxylate | COC1=C(C=C(C=C1)NC=1C2=C(N=CN1)NC(=C2)C=2CCN(CC2)C(=O)OC(C)(C)C)C=2NC=CC2 | C27H30N6O3
